US06174905B1
To a solution of 108 g of o-phenylenediamine (1.0 mol) in 1000 mL of dioxane was added. 500 mL of 1N sodium hydroxide aq., and then 218 g of tert-butyldicarbonate (1.1 mol) in 500 mL of dioxane under ice-cooling. After stirring for 6 hours at room temperature, the mixture was left overnight. The mixture was concentrated to ½ volume by evaporation, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried and evaporated. The residue was purified by column chromatography (eluent: chloroform) to give a solid, which was then washed with diethyl ether to give 68.4 g of N-tertbutoxycarbonyl-o-phenylenediamine (Yield: 32.8%) as a white solid.

reactant | o-phenylenediamine | 1.0 mol, 108 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | sodium hydroxide | 1N, 500 mL | [OH-].[Na+]
reactant | tert-butyldicarbonate | 1.1 mol, 218 g | C(C)(C)(C)OC(=O)OC(=O)[O-]
solvent | dioxane | 1000 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 500 mL | O1CCOCC1 | C4H8O2
product | N-tertbutoxycarbonyl-o-phenylenediamine | 68.4 g, Yield: 32.8% | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)N | C11H16N2O2
